US09102674B2
Step F: Ethyl 2-(2-chloro-7-((3-chlorobenzyl)oxy)quinolin-3-yl)acetate.
To a slurry of ethyl 2-(7-((3-chlorobenzyl)oxy)-2-oxo-1,2-dihydroquinolin-3-yl)acetate (31.4 g, 0.08 mol) in chloroform (314 mL) at ambient temperature was added oxalyl dichloride (21.7 mL, 0.25 mol) and DMF (0.66 mL, 0.01 mol). The resulting slurry was heated to reflux for 1 h. The reaction was quenched with sat. aqueous NaHCO3 (400 mL). The aqueous layer was extracted with DCM (2×200 mL) and the combined organic layers were washed with brine and dried over Na2SO4. The organic layer was concentrated under reduced pressure to furnish a black solid that was triturated in 1:1 EtOAc:hexanes (400 mL) and filtered. The solid was recrystallized from MeOH to furnish (17.0 g, 52%). Two additional crops of product were acquired from the mother liquor to furnish a total of 27.8 g (84.3%) of the title compound. 1H NMR (400 MHz, DMSO-d6) δ 8.34 (s, 1H), 7.93 (d, J=9.0 Hz, 1H), 7.59 (s, 1H), 7.51-7.37 (m, 5H), 5.31 (s, 2H), 4.13 (q, J=7.1 Hz, 2H), 3.94 (s, 2H), 1.19 (t, J=7.1 Hz, 3H). [M+H]=390.2

reactant | ethyl 2-(7-((3-chlorobenzyl)oxy)-2-oxo-1,2-dihydroquinolin-3-yl)acetate | 0.08 mol, 31.4 g | ClC=1C=C(COC2=CC=C3C=C(C(NC3=C2)=O)CC(=O)OCC)C=CC1 | C20H18ClNO4
reactant | oxalyl dichloride | 0.25 mol, 21.7 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | 0.01 mol, 0.66 mL | CN(C)C=O | C3H7NO
solvent | chloroform | 314 mL | C(Cl)(Cl)Cl | CHCl3
product | Ethyl 2-(2-chloro-7-((3-chlorobenzyl)oxy)quinolin-3-yl)acetate | 27.8 g, 84.3% | ClC1=NC2=CC(=CC=C2C=C1CC(=O)OCC)OCC1=CC(=CC=C1)Cl | C20H17Cl2NO3
